US05789394
METHYL 3-t-BUTYLDIPHENYLSILYLOXY-2-HYDROXYPROPIONATE
To a solution of methyl glycerate (25.88 g, 215 mmol) and imidazole (22.0 g, 323 mmol, 1.5 eq) in tetrahydrofuran (250 mL) was added t-butyldiphenylsilyl chloride (53.0 mL, 204 mmol, 0.95 eq) at 0° C. After stirring for 18 h the reaction was quenched by the addition of saturated ammonium chloride and the aqueous phase was extracted with dichloromethane. The organic layer was dried with magnesium sulfate and evaporated under reduced pressure. The crude material was purified by flash chromatography with a mixture of hexanes and ethyl acetate (80:20) to give the compound (68.89 g) in 94% yield. 1H NMR (300 MHz, CDCl3) δ: 1.04 (s, 9H, t-butyl), 3.80 (s, 3H, CO2 CH3), 3.93 (dd, 1H, J=2.9 Hz, 9.0 Hz, H-3a), 3.98 (dd, 1H, J=2.9 Hz, 9.0 Hz, H-3b), 4.26 (dd, 1H, J=2.9 Hz, 2.9 Hz, H-2), 7.42 and 7.65 (m, 10H, Ar-H).

reactant | methyl glycerate | 215 mmol, 25.88 g | C(C(O)CO)(=O)OC | C4H8O4
reactant | imidazole | 323 mmol, 22.0 g, 1.5 eq | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylsilyl chloride | 204 mmol, 53.0 mL, 0.95 eq | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | METHYL 3-t-BUTYLDIPHENYLSILYLOXY-2-HYDROXYPROPIONATE | 68.89 g, 94% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C(=O)OC)O | C20H26O4Si
